US07238808B2
5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and commercially available 2-amino-5-bromopyridine (156 mg, 1.0 mmol) according to general procedure II. Obtained as a dark-red solid (80 mg, 17%). MS (ISP) 448.2[(M+H)+]; mp 227–229° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 2-amino-5-bromopyridine | 1.0 mmol, 156 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
product | 5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=CC(=NC2)N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C21H11F6N5
